US04254267
(A) 4-(2-Pyridyl)-4-oxo-2-butenoic acid, methyl ester
A solution of 33.4 g of carbomethoxymethylene triphenylphosphine [Helv. Chim. Acta. 40, 1242 (1957)] in 500 ml of dry benzene under nitrogen is treated with 10 g of 2-(bromoacetyl)pyridine and heated at reflux temperature for 2 hours. The reaction mixture is cooled and filtered to remove carbomethoxymethyl triphenylphosphonium bromide. The filtrate, containing triphenylphosphine, is treated with methyl bromoacetate and heated at reflux temperature for 2 hours. Cooling and filtration removes additional phosphonium salt. The filtrate is concentrated in vacuo yielding the title compound.

reactant | carbomethoxymethylene triphenylphosphine | 33.4 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | 2-(bromoacetyl)pyridine | 10 g | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 4-(2-Pyridyl)-4-oxo-2-butenoic acid, methyl ester | N1=C(C=CC=C1)C(C=CC(=O)OC)=O | C10H9NO3
